US07745475B2
3-{(1S)-2-Methoxy-(1-methylethyl)oxy}-5-{[4-(methylsulfonyl)phenyl]oxy}benzoic acid
A solution of methyl 3-[(1S)-2-methoxy-(1-methylethyl)oxy]-5-{[4-(methylsulfonyl)phenyl]oxy}benzoate (60.9 mmol) in THF (400 mL) was treated with a solution of 1M sodium hydroxide (125 mmol), and the reaction mixture stirred for 13 hours at ambient temperature. Most of the organic solvent was removed in vacuo, and the remaining solution was diluted with water (150 mL). The resulting aqueous solution was acidified to pH4 with 1M citric acid solution, and extracted with ethyl acetate (2×100 mL). The extracts were combined, washed with brine, dried (MgSO4), and evaporated to give the desired compound (83% yield).

reactant | methyl 3-[(1S)-2-methoxy-(1-methylethyl)oxy]-5-{[4-(methylsulfonyl)phenyl]oxy}benzoate | 60.9 mmol | COC[C@H](C)OC=1C=C(C(=O)OC)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C | C19H22O7S
reactant | sodium hydroxide | 125 mmol, 1M | [OH-].[Na+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-{(1S)-2-Methoxy-(1-methylethyl)oxy}-5-{[4-(methylsulfonyl)phenyl]oxy}benzoic acid | 83% yield | COC[C@H](C)OC=1C=C(C(=O)O)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C | C18H20O7S
